* Subcircuit sn54166_sub
.subckt sn54166_sub net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ d5 net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ d8 net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
* u18 net-_u17-pad2_ net-_u13-pad3_ net-_u12-pad3_ unconnected-_u18-pad4_ d5 d4 unconnected-_u18-pad7_ d_srff
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_nor
* u5 net-_u11-pad1_ net-_u1-pad5_ net-_u13-pad2_ d_and
* u12 net-_u1-pad7_ net-_u1-pad6_ net-_u12-pad3_ d_nor
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_nor
* u4 d3 net-_u10-pad2_ net-_u13-pad1_ d_and
* u22 net-_u21-pad2_ net-_u15-pad3_ net-_u12-pad3_ unconnected-_u22-pad4_ d5 d2 unconnected-_u22-pad7_ d_srff
* u20 net-_u19-pad2_ net-_u14-pad3_ net-_u12-pad3_ unconnected-_u20-pad4_ d5 d3 unconnected-_u20-pad7_ d_srff
* u6 d2 net-_u10-pad2_ net-_u14-pad1_ d_and
* u7 net-_u11-pad1_ net-_u1-pad4_ net-_u14-pad2_ d_and
* u2 net-_u1-pad15_ net-_u11-pad1_ d_inverter
* u3 net-_u11-pad1_ net-_u10-pad2_ d_inverter
* u11 net-_u11-pad1_ net-_u1-pad2_ net-_u11-pad3_ d_and
* u10 net-_u1-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_and
* u16 net-_u10-pad3_ net-_u11-pad3_ net-_u16-pad3_ d_nor
* u8 d1 net-_u10-pad2_ net-_u15-pad1_ d_and
* u15 net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_nor
* u9 net-_u11-pad1_ net-_u1-pad3_ net-_u15-pad2_ d_and
* u23 net-_u16-pad3_ net-_u23-pad2_ d_inverter
* u24 net-_u23-pad2_ net-_u16-pad3_ net-_u12-pad3_ unconnected-_u24-pad4_ d5 d1 unconnected-_u24-pad7_ d_srff
* u21 net-_u15-pad3_ net-_u21-pad2_ d_inverter
* u19 net-_u14-pad3_ net-_u19-pad2_ d_inverter
* u30 net-_u11-pad1_ net-_u1-pad11_ net-_u30-pad3_ d_and
* u29 d5 net-_u10-pad2_ net-_u29-pad3_ d_and
* u35 net-_u29-pad3_ net-_u30-pad3_ net-_u35-pad3_ d_nor
* u42 net-_u41-pad2_ net-_u35-pad3_ net-_u12-pad3_ unconnected-_u42-pad4_ d5 d6 unconnected-_u42-pad7_ d_srff
* u39 net-_u34-pad3_ net-_u39-pad2_ d_inverter
* u44 net-_u43-pad2_ net-_u36-pad3_ net-_u12-pad3_ unconnected-_u44-pad4_ d5 d5 unconnected-_u44-pad7_ d_srff
* u41 net-_u35-pad3_ net-_u41-pad2_ d_inverter
* u43 net-_u36-pad3_ net-_u43-pad2_ d_inverter
* u36 net-_u31-pad3_ net-_u32-pad3_ net-_u36-pad3_ d_nor
* u17 net-_u13-pad3_ net-_u17-pad2_ d_inverter
* u33 net-_u25-pad3_ net-_u26-pad3_ net-_u33-pad3_ d_nor
* u25 d7 net-_u10-pad2_ net-_u25-pad3_ d_and
* u26 net-_u11-pad1_ net-_u1-pad14_ net-_u26-pad3_ d_and
* u38 net-_u37-pad2_ net-_u33-pad3_ net-_u12-pad3_ unconnected-_u38-pad4_ d5 d8 unconnected-_u38-pad7_ d_srff
* u37 net-_u33-pad3_ net-_u37-pad2_ d_inverter
* u28 net-_u11-pad1_ net-_u1-pad12_ net-_u28-pad3_ d_and
* u27 d6 net-_u10-pad2_ net-_u27-pad3_ d_and
* u34 net-_u27-pad3_ net-_u28-pad3_ net-_u34-pad3_ d_nor
* u40 net-_u39-pad2_ net-_u34-pad3_ net-_u12-pad3_ unconnected-_u40-pad4_ d5 d7 unconnected-_u40-pad7_ d_srff
* u32 net-_u11-pad1_ net-_u1-pad10_ net-_u32-pad3_ d_and
* u31 d4 net-_u10-pad2_ net-_u31-pad3_ d_and
a1 net-_u17-pad2_ net-_u13-pad3_ net-_u12-pad3_ unconnected-_u18-pad4_ d5 d4 unconnected-_u18-pad7_ u18
a2 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a3 [net-_u11-pad1_ net-_u1-pad5_ ] net-_u13-pad2_ u5
a4 [net-_u1-pad7_ net-_u1-pad6_ ] net-_u12-pad3_ u12
a5 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a6 [d3 net-_u10-pad2_ ] net-_u13-pad1_ u4
a7 net-_u21-pad2_ net-_u15-pad3_ net-_u12-pad3_ unconnected-_u22-pad4_ d5 d2 unconnected-_u22-pad7_ u22
a8 net-_u19-pad2_ net-_u14-pad3_ net-_u12-pad3_ unconnected-_u20-pad4_ d5 d3 unconnected-_u20-pad7_ u20
a9 [d2 net-_u10-pad2_ ] net-_u14-pad1_ u6
a10 [net-_u11-pad1_ net-_u1-pad4_ ] net-_u14-pad2_ u7
a11 net-_u1-pad15_ net-_u11-pad1_ u2
a12 net-_u11-pad1_ net-_u10-pad2_ u3
a13 [net-_u11-pad1_ net-_u1-pad2_ ] net-_u11-pad3_ u11
a14 [net-_u1-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a15 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u16-pad3_ u16
a16 [d1 net-_u10-pad2_ ] net-_u15-pad1_ u8
a17 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a18 [net-_u11-pad1_ net-_u1-pad3_ ] net-_u15-pad2_ u9
a19 net-_u16-pad3_ net-_u23-pad2_ u23
a20 net-_u23-pad2_ net-_u16-pad3_ net-_u12-pad3_ unconnected-_u24-pad4_ d5 d1 unconnected-_u24-pad7_ u24
a21 net-_u15-pad3_ net-_u21-pad2_ u21
a22 net-_u14-pad3_ net-_u19-pad2_ u19
a23 [net-_u11-pad1_ net-_u1-pad11_ ] net-_u30-pad3_ u30
a24 [d5 net-_u10-pad2_ ] net-_u29-pad3_ u29
a25 [net-_u29-pad3_ net-_u30-pad3_ ] net-_u35-pad3_ u35
a26 net-_u41-pad2_ net-_u35-pad3_ net-_u12-pad3_ unconnected-_u42-pad4_ d5 d6 unconnected-_u42-pad7_ u42
a27 net-_u34-pad3_ net-_u39-pad2_ u39
a28 net-_u43-pad2_ net-_u36-pad3_ net-_u12-pad3_ unconnected-_u44-pad4_ d5 d5 unconnected-_u44-pad7_ u44
a29 net-_u35-pad3_ net-_u41-pad2_ u41
a30 net-_u36-pad3_ net-_u43-pad2_ u43
a31 [net-_u31-pad3_ net-_u32-pad3_ ] net-_u36-pad3_ u36
a32 net-_u13-pad3_ net-_u17-pad2_ u17
a33 [net-_u25-pad3_ net-_u26-pad3_ ] net-_u33-pad3_ u33
a34 [d7 net-_u10-pad2_ ] net-_u25-pad3_ u25
a35 [net-_u11-pad1_ net-_u1-pad14_ ] net-_u26-pad3_ u26
a36 net-_u37-pad2_ net-_u33-pad3_ net-_u12-pad3_ unconnected-_u38-pad4_ d5 d8 unconnected-_u38-pad7_ u38
a37 net-_u33-pad3_ net-_u37-pad2_ u37
a38 [net-_u11-pad1_ net-_u1-pad12_ ] net-_u28-pad3_ u28
a39 [d6 net-_u10-pad2_ ] net-_u27-pad3_ u27
a40 [net-_u27-pad3_ net-_u28-pad3_ ] net-_u34-pad3_ u34
a41 net-_u39-pad2_ net-_u34-pad3_ net-_u12-pad3_ unconnected-_u40-pad4_ d5 d7 unconnected-_u40-pad7_ u40
a42 [net-_u11-pad1_ net-_u1-pad10_ ] net-_u32-pad3_ u32
a43 [d4 net-_u10-pad2_ ] net-_u31-pad3_ u31
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u18 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u12 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u14 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u22 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u20 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u16 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u24 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u35 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u42 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u39 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u44 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u43 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u36 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u33 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u38 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u37 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u34 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u40 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends sn54166_sub