* c:\fossee2\esim\library\subcircuitlibrary\sc_sn7495a\sc_sn7495a.cir

.include srff_custom.sub
* u8  net-_u12-pad1_ net-_u1-pad1_ net-_u8-pad3_ d_and
* u11  net-_u1-pad2_ net-_u11-pad2_ net-_u11-pad3_ d_and
* u2  net-_u12-pad1_ net-_u1-pad9_ net-_u2-pad3_ d_and
* u3  net-_u1-pad6_ net-_u1-pad8_ net-_u3-pad3_ d_and
* u9  net-_u11-pad3_ net-_u8-pad3_ net-_u10-pad1_ d_nor
* u10  net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u12  net-_u12-pad1_ net-_u1-pad13_ net-_u12-pad3_ d_and
* u15  net-_u1-pad3_ net-_u11-pad2_ net-_u13-pad1_ d_and
* u13  net-_u13-pad1_ net-_u12-pad3_ net-_u13-pad3_ d_nor
* u14  net-_u13-pad3_ net-_u14-pad2_ d_inverter
* u16  net-_u12-pad1_ net-_u1-pad12_ net-_u16-pad3_ d_and
* u19  net-_u1-pad4_ net-_u11-pad2_ net-_u17-pad1_ d_and
* u17  net-_u17-pad1_ net-_u16-pad3_ net-_u17-pad3_ d_nor
* u18  net-_u17-pad3_ net-_u18-pad2_ d_inverter
* u20  net-_u12-pad1_ net-_u1-pad11_ net-_u20-pad3_ d_and
* u23  net-_u1-pad5_ net-_u11-pad2_ net-_u21-pad1_ d_and
* u21  net-_u21-pad1_ net-_u20-pad3_ net-_u21-pad3_ d_nor
* u22  net-_u21-pad3_ net-_u22-pad2_ d_inverter
* u5  net-_u2-pad3_ net-_u3-pad3_ net-_u5-pad3_ d_or
* u7  net-_u5-pad3_ net-_u7-pad2_ d_inverter
* u4  net-_u1-pad6_ net-_u12-pad1_ d_inverter
* u6  net-_u12-pad1_ net-_u11-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ? net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ ? port
x1 net-_u10-pad2_ net-_u10-pad1_ net-_u7-pad2_ net-_u1-pad13_ ? srff_custom
x2 net-_u14-pad2_ net-_u13-pad3_ net-_u7-pad2_ net-_u1-pad12_ ? srff_custom
x3 net-_u18-pad2_ net-_u17-pad3_ net-_u7-pad2_ net-_u1-pad11_ ? srff_custom
x4 net-_u22-pad2_ net-_u21-pad3_ net-_u7-pad2_ net-_u1-pad10_ ? srff_custom
a1 [net-_u12-pad1_ net-_u1-pad1_ ] net-_u8-pad3_ u8
a2 [net-_u1-pad2_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a3 [net-_u12-pad1_ net-_u1-pad9_ ] net-_u2-pad3_ u2
a4 [net-_u1-pad6_ net-_u1-pad8_ ] net-_u3-pad3_ u3
a5 [net-_u11-pad3_ net-_u8-pad3_ ] net-_u10-pad1_ u9
a6 net-_u10-pad1_ net-_u10-pad2_ u10
a7 [net-_u12-pad1_ net-_u1-pad13_ ] net-_u12-pad3_ u12
a8 [net-_u1-pad3_ net-_u11-pad2_ ] net-_u13-pad1_ u15
a9 [net-_u13-pad1_ net-_u12-pad3_ ] net-_u13-pad3_ u13
a10 net-_u13-pad3_ net-_u14-pad2_ u14
a11 [net-_u12-pad1_ net-_u1-pad12_ ] net-_u16-pad3_ u16
a12 [net-_u1-pad4_ net-_u11-pad2_ ] net-_u17-pad1_ u19
a13 [net-_u17-pad1_ net-_u16-pad3_ ] net-_u17-pad3_ u17
a14 net-_u17-pad3_ net-_u18-pad2_ u18
a15 [net-_u12-pad1_ net-_u1-pad11_ ] net-_u20-pad3_ u20
a16 [net-_u1-pad5_ net-_u11-pad2_ ] net-_u21-pad1_ u23
a17 [net-_u21-pad1_ net-_u20-pad3_ ] net-_u21-pad3_ u21
a18 net-_u21-pad3_ net-_u22-pad2_ u22
a19 [net-_u2-pad3_ net-_u3-pad3_ ] net-_u5-pad3_ u5
a20 net-_u5-pad3_ net-_u7-pad2_ u7
a21 net-_u1-pad6_ net-_u12-pad1_ u4
a22 net-_u12-pad1_ net-_u11-pad2_ u6
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u9 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u17 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u21 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
